US06248736B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide.
A suspension of 6.90 g of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 4, 10.4 g of potassium carbonate, and 2.3 mL of methyl iodide in 40 mL of DMF is stirred at 90° C. for 4 hours, then cooled and diluted with 350 mL of water. The resulting solid is filtered, washed well with water, and dried under vacuum. Flash chromatography of the solid on silica using 3-5% methanol in dichloromethane provides 6.02 g of the title compound as a solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | 6.90 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.3 mL | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 350 mL | O | H2O
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 6.02 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)C)C=C1 | C21H17ClN2O3
